US05374646
2,2,2-Trifluoro-1-(2-hydroxy-5-methylphenyl)ethanone
A solution of 2-bromo-4-methylphenol (35 g) in dry ether (300 ml) was cooled in an ice bath and treated dropwise with n-butyl lithium (227 ml) under nitrogen maintaining the temperature below 5° C. Following completion of addition the reaction was warmed to room temperature. Stirring at this temperature was continued for ~2 h. The solution was cooled to about -60° C. and treated dropwise with freshly distilled trifluoroacetic anhydride (26.2 ml). The resulting solution was stirred at low temperature for a further 1 h before warming to room temperature. Stirring at this temperature was continued overnight. The resulting reaction mixture was washed with saturated aqueous ammonium chloride (3×150 ml) and the organic phases dried. The remaining ether was removed by evaporation at atmospheric pressure on a rotary evaporator. The resulting solution was purified by column chromatography eluting with hexane to give the title compound as a yellow/orange crystalline solid (13.12 g).

reactant | 2-bromo-4-methylphenol | 35 g | BrC1=C(C=CC(=C1)C)O | C7H7BrO
reactant | n-butyl lithium | 227 ml | C(CCC)[Li]
reactant | trifluoroacetic anhydride | 26.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2,2,2-Trifluoro-1-(2-hydroxy-5-methylphenyl)ethanone | 13.12 g | FC(C(=O)C1=C(C=CC(=C1)C)O)(F)F | C9H7F3O2
